US07476399B2
4-(diethylamino)-N-(heptan-4-yl)benzamide
Prepared in a similar manner to example 4 using 4-diethylamino benzoic acid and 4-heptylamine. (31% %). 1H NMR (500 MHz, CDCl3): δ 0.92(t, 6H, J=7.17 Hz), 1.18 (t, 6H, J=7.04 Hz), 1.41(m, 4H), 1.55(m, 4H), 3.39 (m, 4H), 4.15 (m, 1H), 5.62 (m, 1H), 6.64 (d, 2H, J=10.26 Hz), 7.64 (d, 2H, J=10.26 Hz). MS (M+H, 291).

reactant | 4-diethylamino benzoic acid | C(C)N(C1=CC=C(C(=O)O)C=C1)CC | C11H15NO2
reactant | 4-heptylamine | CCCC(CCC)N | C7H17N
product | 4-(diethylamino)-N-(heptan-4-yl)benzamide | C(C)N(C1=CC=C(C(=O)NC(CCC)CCC)C=C1)CC | C18H30N2O
